US08557805B2
5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carbothioamide
To a solution of 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxamide (4.5 g) in tetrahydrofuran (100 mL) was added a Lawesson's reagent (6 g), and the mixture was stirred with heating under reflux for 1 hr. The reaction mixture was cooled, and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (ethyl acetate:hexane=0:100 to 100:0, volume ratio) to give the title compound (3.7 g, yield 78%) as yellow powder.

reactant | 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxamide | 4.5 g | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=CC1)C(=O)N | C15H13N3O4S
reactant | Lawesson's reagent | 6 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carbothioamide | 3.7 g, yield 78% | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=CC1)C(N)=S | C15H13N3O3S2
